US06780855B2
g) 7α-(9-Chlorononyl)-11β-fluor-estr-4-ene-3,17-dione
3.3 ml of 1,8-diazabicyclo[5,4,0]undec-7-ene and, drop by drop, 4 ml of perfluorobutane-1-sulfonic acid fluoride are added to 6.7 g of 7α-(9-chlorononyl)-11-hydroxy-estr-4-ene-3,17-dione in 35 ml of ethyl acetate at 0° C. After 2 hours, it is diluted with ethyl acetate, washed several times with 2N hydrochloric acid and neutralized with saturated sodium bicarbonate solution and water. The crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient. Yield: 6.2 g of 7α-(9-chlorononyl)-11β-fluor-estr-4-ene-3,17-dione as an oil.

reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 3.3 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | perfluorobutane-1-sulfonic acid fluoride | 4 ml | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | 7α-(9-chlorononyl)-11-hydroxy-estr-4-ene-3,17-dione | 6.7 g | ClCCCCCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC([C@@H]2[C@H]2CCC(C=C2C1)=O)O)=O | C27H41ClO3
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | 7α-(9-Chlorononyl)-11β-fluor-estr-4-ene-3,17-dione | ClCCCCCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C27H40ClFO2
